US07053099B1
d) 1-Phenyl-5-phenoxy-3,4-dihydro-(1H)-quinazolin-2-one
The product of example 1c above, 2-phenoxy-6-(phenylamino)benzyl amine, (0.165 g 0.57 mmol) was dissolved in dry tetrahydrofuran (5 mL) and stirred under argon at room temperature. 1,1′-Carbonyldiimidazole (0.120 g, 0.74 mmol) dissolved in dry tetrahydrofuran (2 mL) was added and the mixture stirred at room temperature. The solvent was evaporated in vacuo, to give the crude product which was flash chromatographed on silica gel eluted with 0–2% methanol in methylene chloride to give to the title compound as a white amorphous solid. mp 225–227° C.

reactant | 2-phenoxy-6-(phenylamino)benzyl amine | O(C1=CC=CC=C1)C1=C(CN)C(=CC=C1)NC1=CC=CC=C1 | C19H18N2O
reactant | 1,1′-Carbonyldiimidazole | 0.74 mmol, 0.120 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1-Phenyl-5-phenoxy-3,4-dihydro-(1H)-quinazolin-2-one | C1(=CC=CC=C1)N1C(NCC2=C(C=CC=C12)OC1=CC=CC=C1)=O | C20H16N2O2
